US06380387B1
The solution containing the above prepared zinc compound (11 mmol) was added to a solution of Pd(dba)2 (0.14 mmol, 80 mg), trifurylphosphine (TFP) (0.52 mmol, 134 mg) and N-[(1,1-dimethylethoxy)carbonyl]-4-iodo-L-phenylalanine methyl ester (9 mmol, 3.65 g) in THF (6 mL) at room temperature and the light yellow mixture was stirred for 72 h at 50-55° C. The reaction mixture was poured into a saturated ammonium chloride solution (100 mL) and was extracted with ethyl acetate (3×75 mL). The combined extracts were washed with brine solution (150 mL) and dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave the crude product which was purified by silica gel column chromatography using a Biotage column (40m) to obtain 1.78 g (43% yield) of N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C24H33N3O6 (M+Na) 482.2262, found 482.2262.

reactant | trifurylphosphine | 0.52 mmol, 134 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-iodo-L-phenylalanine methyl ester | 9 mmol, 3.65 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)I)=O | C15H20INO4
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | zinc | 11 mmol | [Zn] | Zn
catalyst | Pd(dba)2 | 0.14 mmol, 80 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 1.78 g, 43% yield | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O | C24H33N3O6
